US05821239
4-[[(Hexahydro-azepin-1-yl)methylene]amino]-3-pyridinol N,N-dimethylcarbamate
A mixture prepared from 4-[[(hexahydro-azepin-1-yl)methylene]amino]-3-pyridinol (2.9 g), triethylamine (2.86 ml), dimethylcarbamyl chloride (1.83 ml) and tetrahydrofuran (85 ml) was refluxed for 1 hour, cooled, poured directly onto a silica column and eluted successively with ethyl acetate and 5% Et3N/ethyl acetate. The eluate was concentrated and dried under high vacuum to obtain 3.88 g of oil. The oil solidified in a refrigerator over the weekend, and was triturated with cold pentane to yield 3.31 g of solid, m.p. 68°-70° C.

reactant | 4-[[(hexahydro-azepin-1-yl)methylene]amino]-3-pyridinol | 2.9 g | N1(CCCCCC1)C=NC1=C(C=NC=C1)O | C12H17N3O
reactant | triethylamine | 2.86 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamyl chloride | 1.83 ml | CN(C(=O)Cl)C | C3H6ClNO
solvent | tetrahydrofuran | 85 ml | O1CCCC1 | C4H8O
product | 4-[[(Hexahydro-azepin-1-yl)methylene]amino]-3-pyridinol N,N-dimethylcarbamate | 3.88 g | CN(C(=O)OC=1C=NC=CC1N=CN1CCCCCC1)C | C15H22N4O2
